### PR TITLE
[Merged by Bors] - feat: add theorems about isLUB and isGLB for Finset.sup and Finset.inf

### PR DESCRIPTION
**Pull request by pauldavidrowe**
feat: add theorems regarding isLUB and isGLB for Finset.sup and Finset.inf

theorems were previously missing stating that `Finset.sup` produces a least upper bound and `Finset.inf` produces a greatest lower bound. This commit adds those theorems as well as the corresponding one for `Finset.sup'` and `Finset.inf'`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Lattice/Fold.lean [hunk 1]
```diff
@@ -783,6 +791,11 @@ theorem sup'_product_right {t : Finset γ} (h : (s ×ˢ t).Nonempty) (f : β ×
     (s ×ˢ t).sup' h f = t.sup' h.snd fun i' => s.sup' h.fst fun i => f ⟨i, i'⟩ := by
   rw [sup'_product_left, Finset.sup'_comm]
 
+/-- Analog of `Finset.isLUB_sup` requiring a nonempty set. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Lattice/Fold.lean:794]: I think we should just use `set_option linter.docPrime false in` here, since the lemmas is about a primed definition.

**Comment by j-loreaux** [comment]
Can you please also provide `IsLeast` and `IsGreatest` versions for `LinearOrder`s? The lemma [[Finset.inf'_mem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Lattice/Fold.html#Finset.inf'_mem) will come in handy for proving it I believe.

**Comment by eric-wieser** [comment]
`Finset.isGLB_iff_isLeast` should do all the work there.

**Comment by j-loreaux** [comment]
Oops, I didn't know we had [Finset.isLeast_min'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Max.html#Finset.isLeast_min'). Indeed, I didn't even know we had [Finset.min'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Max.html#Finset.min').

It's not clear to me why we have these in addition to `Finset.inf'`, but at least you can ignore my earlier suggestion.

File: Mathlib/Data/Finset/Lattice/Fold.lean (hunk 1 above)
Comment (pauldavidrowe) [reply Mathlib/Data/Finset/Lattice/Fold.lean:794]: Good suggestion. I didn't know how to disable it, but I agree no docstring is really necessary.

**Comment by pauldavidrowe** [comment]
Ok, I followed Eric's suggestion. If I understand correctly, Jireh, since `Finset.min'` and `Finset.max'` exist and have `IsLeast` and `IsGreatest`, no other change is requested of me. 

If that's wrong, just let me know.

File: Mathlib/Data/Finset/Lattice/Fold.lean [hunk 2]
```diff
@@ -783,6 +791,11 @@ theorem sup'_product_right {t : Finset γ} (h : (s ×ˢ t).Nonempty) (f : β ×
     (s ×ˢ t).sup' h f = t.sup' h.snd fun i' => s.sup' h.fst fun i => f ⟨i, i'⟩ := by
   rw [sup'_product_left, Finset.sup'_comm]
 
+set_option linter.docPrime false in
+theorem isLUB_sup' {α : Type} [SemilatticeSup α] {s : Finset α} (hs : s.Nonempty) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Lattice/Fold.lean:795]: This should be `Type*` or better yet
```suggestion
theorem isLUB_sup' {s : Finset α} (hs : s.Nonempty) :
```
since I think there is a `variable {α : Type*} [SemilatticeSup α]` above?

I'd also be inclined to put this result immediately below `le_sup'` and `sup'_le`, same throughout.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
